US04927956
(36.6 g, 0.30 mol) of 2,6-dimethylphenol are mixed in an Hastelloy C autoclave with 0.315 mol of acetic anhydride and 9 mols of hydrogen fluoride. The temperature is raised to 50° C. and the reaction runs for 3 hours. After extraction and wash, 47.4 g of a gray to purple solid mass of 3,5-dimethyl-4-hydroxyacetophenone is obtained. This solid is then esterified by refluxing with 4 mols of acetic anhydride for 19 hours. After removal of acetic acid and acetic anhydride by vacuum distillation the 3,5-dimethyl-4-acetoxyacetophenone is flash distilled to yield 47.7 g of a slightly yellow liquid. 0.1 mol of the 3,5-dimethyl-4-acetoxyacetophenone, 1.2 g of 5% Pd/C as catalyst and 100 ml ethanol are mixed in an autoclave and the autoclave is charged with hydrogen gas at a pressure of 215-220 mm Hg PSIG and the reaction is run for about 2 1/2 hours at a temperature of about 25°-30° C. Additional catalyst is added as needed. The catalyst is then removed and the ethanol evaporated to yield 21.5 g of a colorless oil which is 1-(3',5'-dimethyl-4'-acetoxyphenyl)ethanol. 0.168 mol of 1-(3',5'-dimethyl-4'-acetoxyphenyl)ethanol is added to a flask with 0.35 g KHSO4 and 0.5 g t-butyl catechol. The flask is heated to 185° to 190° C. at 1.5 to 2.0 mm Hg. A colorless liquid is distilled. After the addition of 0.15 g of t-butyl catechol, and redistillation, 26.1 g of 3,5- dimethyl-4-acetoxystyrene monomer is produced. The compound has a boiling point of 90°-91° C. at 0.5 mm of Hg and the yield is 81.8%.

reactant | 2,6-dimethylphenol | 0.30 mol, 36.6 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | acetic anhydride | 0.315 mol | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen fluoride | 9 mols | F | FH
catalyst | Hastelloy C | [Cr].[Co]
product | 3,5-dimethyl-4-hydroxyacetophenone | CC1=CC(=CC(=C1O)C)C(=O)C | C10H12O2
